US08293914B2
To a suspension of 6-chloropyridazine-3-carbaldehyde (2.50 g, 17.5 mmol) in 30 mL of methanol (30 mL) at 0° C. was added sodium borohydride (0.26 g, 7.02 mmol). The reaction mixture was warmed to room temperature. After 2 hours, the reaction mixture was concentrated in vacuo and triturated with 20% MeOH in dichloromethane to provide (6-chloropyridazin-3-yl)methanol.

reactant | 6-chloropyridazine-3-carbaldehyde | 17.5 mmol, 2.50 g | ClC1=CC=C(N=N1)C=O | C5H3ClN2O
reactant | sodium borohydride | 7.02 mmol, 0.26 g | [BH4-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | (6-chloropyridazin-3-yl)methanol | ClC1=CC=C(N=N1)CO | C5H5ClN2O
